US06693197B2
Preparation of [(2R)-8-Methyl-2,3-Dihydro[1,4]Dioxino[2,3-f]Quinolin-2-yl]Methyl 4-Methylbenzenesulfonate
A solution of [(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]-methanol (0.13 g, 0.57 mmol), tosyl chloride (0.16 g, 0.82 mmol) and triethylamine (0.65 mL, 4.7 mmol) in CH2Cl2 (8 mL) was stirred at room temperature for 18 h. CHCl3 (30 mL) and H2O (30 mL) were added. The two layers were separated. The aqueous layer was extracted with CHCl3 (20 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Purification on SiO2, eluting with (1:1) hexane:EtOAc gave 0.19 g (88%) of the title compound as a brown syrup.

reactant | [(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]-methanol | 0.57 mmol, 0.13 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)CO | C13H13NO3
reactant | tosyl chloride | 0.82 mmol, 0.16 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | triethylamine | 4.7 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 30 mL | O | H2O
product | [(2R)-8-Methyl-2,3-Dihydro[1,4]Dioxino[2,3-f]Quinolin-2-yl]Methyl 4-Methylbenzenesulfonate | 0.19 g, 88% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C20H19NO5S
